US06013658
((1R)-1-(((1R)-1-(5-Carbamoyl-[1,3,4]oxadiazol-2-yl)-2-phenylethyl)methylcarbamoyl)-2-(2-naphthyl)ethyl)methylcarbamic acid tert-butylester (300 mg, 0.55 mmol) was dissolved in dichloromethane (3 ml) and cooled to 0° C. Trifluoroacetic acid (3 ml) was added dropwise. The solution was stirred for 5 min at 0° C. The solvent was removed in vacuo. The residue was dissolved in ethyl acetate (5 ml), and the solvent was removed in vacuo. The residue was dissolved in ethyl acetate (5 ml), and the solvent was removed in vacuo. The residue was dissolved in 3M hydrogen chloride in ethyl acetate (5 ml), and the solvent was removed in vacuo. The residue was dissolved in 3M hydrogen chloride in ethyl acetate (5 ml), and the solvent was removed in vacuo to give 238 mg of crude 5-((1R)-1-(methyl((2R)-2-methylamino-3-(2-naphthyl)propionyl)amino)-2-phenylethyl)-[1,3,4]oxadiazol-2-carboxylic acid amide, which was used for the further synthesis.

reactant | ((1R)-1-(((1R)-1-(5-Carbamoyl-[1,3,4]oxadiazol-2-yl)-2-phenylethyl)methylcarbamoyl)-2-(2-naphthyl)ethyl)methylcarbamic acid tert-butylester | 0.55 mmol, 300 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@H](CC1=CC=CC=C1)C=1OC(=NN1)C(N)=O)=O)=O | C31H35N5O5
reactant | Trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 5-((1R)-1-(methyl((2R)-2-methylamino-3-(2-naphthyl)propionyl)amino)-2-phenylethyl)-[1,3,4]oxadiazol-2-carboxylic acid amide | 238 mg | CN([C@H](CC1=CC=CC=C1)C1=NN=C(O1)C(=O)N)C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O | C26H27N5O3
